US08242145B2
Step 5: {3-[4-Chloro-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid
Prepared according to the procedure described in Example 24, Step 8, using the following starting materials: {3-[4-chloro-2((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and sodium hydroxide.

reactant | {3-[4-chloro-2((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C28H28ClNO6
reactant | sodium hydroxide | [OH-].[Na+]
product | {3-[4-Chloro-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid | ClC1=CC(=C(OC=2C=C(C=CC2OC)CC(=O)O)C=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C26H24ClNO6
